US08372842B2
Diiodine (0.547 g, 2.16 mmol) in ethanol (5 mL) was added dropwise over 5 minutes to a solution of 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (0.50 g, 1.96 mmol, prepared similarly as that described in WO 2007/103308) in absolute ethanol (20 mL) at 0° C. The reaction was stirred at 0° C. for 3 hours, followed by addition of 5% sodium bicarbonate (20 mL). The mixture was concentrated to give a slurry. The pH was then adjusted with saturated KHSO4 to a pH of 4. The resulting solid was collected by filtration and dried to give 5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (0.70 g, 94%). MS APCI (+) m/z 382.0 detected.

reactant | Diiodine | 2.16 mmol, 0.547 g | II | I2
reactant | 1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | COC1=CC=C(CN2N=CC3=C2N=CC=C3O)C=C1 | C14H13N3O2
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 0.70 g, 94% | IC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12IN3O2
